US09351965B2
Preparation of methyl 1-(4-fluorobenzyl)-3-(3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamido)cyclohexanecarboxylate
In a flask, 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid (567 mg, 1.15 mmol), methyl 3-amino-1-(4-fluorobenzyl)cyclohexanecarboxylate (1.09 mmol), and HATU (622 mg, 1.64 mmol) was dissolved in dimethylformamide (3 mL). The reaction mixture was stirred for 2 minutes at room temperature. Diisopropylethylamine (0.95 mL, 5.45 mmol) was added to the reaction. The reaction was allowed to stir for an additional 1 hr. Upon completion, the reaction was quenched with water (5 mL). The water layer was extracted with ethyl acetate (20 mL) three times. The organic fractions were combined, dried with sodium sulfate, and concentrated to yield the crude product. The crude compound was purified using flash chromatography (0-100% ethyl acetate in hexane gradient) to give the title compound (690 mg).

reactant | 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid | 1.15 mmol, 567 mg | CC1=NC=CC(=C1)C1=NN(C2=CC=C(C=C12)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25N3O2
reactant | methyl 3-amino-1-(4-fluorobenzyl)cyclohexanecarboxylate | 1.09 mmol | NC1CC(CCC1)(C(=O)OC)CC1=CC=C(C=C1)F | C15H20FNO2
reactant | HATU | 1.64 mmol, 622 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Diisopropylethylamine | 5.45 mmol, 0.95 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | methyl 1-(4-fluorobenzyl)-3-(3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamido)cyclohexanecarboxylate | 690 mg | FC1=CC=C(CC2(CC(CCC2)NC(=O)C=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C)C(=O)OC)C=C1 | C48H43FN4O3
